### PR TITLE
Cleanup `KullbackLeibler.lean`

### PR DESCRIPTION
**Pull request by LorenzoLuccioli**
Fix the problem of having to state two `CountableOrCountablyGenerated` hypotheses (`[CountableOrCountablyGenerated (α × β) γ]
    [CountableOrCountablyGenerated β γ]`), when only one would suffice (`[CountableOrCountablyGenerated (α × β) γ]`). 

- Add `condKL_isEmpty_left`
- Add file `CountableOrCountablyGenerated.lean`
- Move `kernel.integrable_llr_compProd_iff` to the file about llr compProd
- Move `absolutelyContinuous_compProd_iff` to `RadonNicodym.lean`
- Cleanup

### CODE REVIEW

File: TestingLowerBounds/ForMathlib/CountableOrCountablyGenerated.lean [hunk 1]
```diff
@@ -0,0 +1,89 @@
...
+
+namespace MeasurableSpace
+
+variable {α β γ : Type*} [MeasurableSpace α] [MeasurableSpace β] [MeasurableSpace γ]
+
+/-I'm not sure this is the right way to state those facts, maybe they should just be lemmas?
+I cannot put the Nonempty α as a hypothesis because then α would not be mentioned in the thesis
+and that is not allowed in a typeclass instance. Anyway I feel that in this way they are not very
+useful because it seems that the typeclass inference is not able to use them.-/
+--solution: state those as lemmas
```
Comment (RemyDegenne) [inline TestingLowerBounds/ForMathlib/CountableOrCountablyGenerated.lean]: This is all solved right? You turned them into lemmas.
```suggestion
```

File: TestingLowerBounds/ForMathlib/CountableOrCountablyGenerated.lean [hunk 2]
```diff
@@ -0,0 +1,89 @@
...
+  contrapose h
+  rw [not_countable_iff] at *
+  infer_instance
+
+lemma countable_right_of_prod_of_nonempty [Nonempty α] (h : Countable (α × β)) : Countable β := by
+  contrapose h
+  rw [not_countable_iff] at *
+  infer_instance
+
+--TODO: what name should we use? in this name the first 'left' refers to the fact that we are talking about `α`, which is the left factor in the product, the second 'left' refers to the fact that the product is on the left argument of `CountableOrCountablyGenerated`
```
Comment (RemyDegenne) [inline TestingLowerBounds/ForMathlib/CountableOrCountablyGenerated.lean]: The name is fine, even if a bit hard to parse.
```suggestion
```

File: TestingLowerBounds/ForMathlib/CountableOrCountablyGenerated.lean [hunk 3]
```diff
@@ -0,0 +1,89 @@
...
+--is it worth it to formalize that proof? I may need to formalize also the hint, if I don't find it on mathlib, this may take a bit of time but I think it may be worth it. However I have to decide whether to do it now or later.
+
+lemma countablyGenerated_left_of_prod_of_nonempty [Nonempty β] (h : CountablyGenerated (α × β)) : CountablyGenerated α := by
+  -- contrapose h
+  sorry
+
+lemma countablyGenerated_right_of_prod_of_nonempty [Nonempty α] (h : CountablyGenerated (α × β)) : CountablyGenerated β := by
+  -- contrapose h
+  sorry
+
```
Comment (RemyDegenne) [inline TestingLowerBounds/ForMathlib/CountableOrCountablyGenerated.lean:47]:
```suggestion
```

File: TestingLowerBounds/ForMathlib/CountableOrCountablyGenerated.lean [hunk 4]
```diff
@@ -0,0 +1,89 @@
...
+    infer_instance
+
+lemma countableOrCountablyGenerated_left_of_prod_right_of_nonempty [Nonempty γ]
+    [h : CountableOrCountablyGenerated α (β × γ)] :
+    CountableOrCountablyGenerated α β := by
+  rcases h.countableOrCountablyGenerated with (h | h)
+  · infer_instance
+  · have := countablyGenerated_left_of_prod_of_nonempty h
+    infer_instance
+
```
Comment (RemyDegenne) [inline TestingLowerBounds/ForMathlib/CountableOrCountablyGenerated.lean:63]:
```suggestion
```

File: TestingLowerBounds/ForMathlib/RadonNikodym.lean [hunk 5]
```diff
@@ -5,6 +5,10 @@ Authors: Rémy Degenne, Lorenzo Luccioli
 -/
 import Mathlib.Probability.Kernel.MeasureCompProd
 import Mathlib.Probability.Kernel.RadonNikodym
+import TestingLowerBounds.ForMathlib.KernelFstSnd
+import TestingLowerBounds.ForMathlib.CountableOrCountablyGenerated
+
+
```
Comment (RemyDegenne) [inline TestingLowerBounds/ForMathlib/RadonNikodym.lean]:
```suggestion
```

File: TestingLowerBounds/ForMathlib/RadonNikodym.lean [hunk 6]
```diff
@@ -491,4 +495,17 @@ lemma Measure.absolutelyContinuous_compProd_right_iff
 
 end MeasureCompProd
 
+--for now I am leaving it here, but in the future it should be moved to a more appropriate place, some file about absolute continuity, together with the other lemmas about absolute continuity, i.e. the lemmas directly above this one and some lemmas at the beginning of this file
```
Comment (RemyDegenne) [inline TestingLowerBounds/ForMathlib/RadonNikodym.lean]:
```suggestion
-- todo: move to a file about absolute continuity
```

File: TestingLowerBounds/KullbackLeibler.lean [hunk 7]
```diff
@@ -599,51 +607,36 @@ lemma kl_fst_add_condKL [StandardBorelSpace β] [Nonempty β] {μ ν : Measure (
...
-  by_cases h_int₂ : ∀ᵐ b ∂κ₁ a, Integrable (llr (κ₂ (a, b)) (η₂ (a, b))) (κ₂ (a, b))
-  swap; tauto
-  simp only [h_int₁, true_and, h_int₂, and_true]
-  apply integrable_congr
-  filter_upwards [h_ac'] with b hb_ac
-  rw [kl_toReal_of_ac hb_ac]
+  exact integrable_kl_iff h_ac'
 
-lemma kl_compProd_kernel_of_ae_ac_of_ae_integrable [CountableOrCountablyGenerated β γ]
+lemma kl_compProd_kernel_of_ae_ac_of_ae_integrable [CountableOrCountablyGenerated (α × β) γ]
```
Comment (RemyDegenne) [inline TestingLowerBounds/KullbackLeibler.lean]: This changed from `[CountableOrCountablyGenerated β γ]` to `[CountableOrCountablyGenerated (α × β) γ]`. Can you comment on that?

**Review by RemyDegenne — APPROVED** [review]
